US06747023B1
Lithium 6-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrooxazol[5,4-c]pyridine-2-carboxylate
To a solution of 6-(tert-butoxycarbonyl)-2-methoxycarbonyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridine (311 mg) in tetrahydrofuran (8.0 ml) were added water (2.0 ml) and lithium hydroxide (25.0 mg) at room temperature. After stirring for 10 minutes, the reaction mixture was distilled under reduced pressure to remove the solvent, whereby the title compound (280 mg) was obtained as a colorless solid. The residue was provided for the subsequent reaction without purification.

reactant | 6-(tert-butoxycarbonyl)-2-methoxycarbonyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridine | 311 mg | C(C)(C)(C)OC(=O)C1CC2=C(CN1)OC(=N2)C(=O)OC | C13H18N2O5
reactant | water | 2.0 ml | O | H2O
reactant | lithium hydroxide | 25.0 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 8.0 ml | O1CCCC1 | C4H8O
product | Lithium 6-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrooxazol[5,4-c]pyridine-2-carboxylate | C(C)(C)(C)OC(=O)C1CC2=C(CN1)OC(=N2)C(=O)[O-].[Li+] | InChI=1S/C12H16N2O5.Li/c1-12(2,3)19-11(17)7-4-6-8(5-13-7)18-9(14-6)10(15)16;/h7,13H,4-5H2,1-3H3,(H,15,16);/q;+1/p-1
